US07153874B2
4-[1-(4-Fluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine (1)
2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (II-1) (200 mg, 1.01 mmol) was dissolved in 10 mL dichloromethane. Powdered molecular sieves (3 Å, 200 mg), 4-fluorobenzene boronic acid (284 mg, 2.02 mmol) and [Cu(OH)TMEDA]2Cl2 (47 mg, 0.10 mmol) were added. Oxygen was bubbled through the reaction mixture for 5 min and stirring was continued at RT overnight. The reaction mixture was filtered through a dicalite speed plus pad and washed with 50 mL dichloromethane. The filtrate was washed with 50 ml water, dried with magnesium sulfate, filtered and evaporated. The crude product was purified by flash chromatography on silica gel (dichloromethane/methanol 100:0→85:15 gradient) and a mixture of 2 regioisomers was isolated. The desired compound was obtained by recrystallization from diethylether as a white solid (151 mg, 51%), mp=151° C., MS: m/e=292.1 (M+H+).

reactant | 2-Methyl-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | 1.01 mmol, 200 mg | CC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C12H11N3
reactant | 4-fluorobenzene boronic acid | 2.02 mmol, 284 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | diethylether | 151 mg | C(C)OCC | C4H10O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[1-(4-Fluoro-phenyl)-2-methyl-1H-imidazol-4-ylethynyl]-2-methyl-pyridine | FC1=CC=C(C=C1)N1C(=NC(=C1)C#CC1=CC(=NC=C1)C)C | C18H14FN3
